US04202896
To a suspension of 1.5 g (0.0375 mol) of lithium aluminiumhydride in 75 ml of diethyl ether, a solution of 8 g (0.017 mol) of 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-[3-(4-methylphenyl)-1-oxo-2-propenyl]piperazine in 75 ml of diethyl ether was added dropwise with stirring. The mixture was refluxed for 2 hours and it was then cooled to 0° C. and decomposed with a mixture of water and tetrahydrofuran. The solid was filtered off and maleic acid in diethyl ether was added to the filtrate until it was acidic. The precipitate was filtered off and crystallized from a mixture of methanol and dimethylformamide. 1-[2-[Bis(4-fluorophenyl)methoxy]ethyl]-4-[3-(4-methylphenyl)-2-propenyl]piperazine maleate (1:2) was obtained. Melting point 193.5°-194.0° C.

reactant | lithium aluminiumhydride | 0.0375 mol, 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-4-[3-(4-methylphenyl)-1-oxo-2-propenyl]piperazine | 0.017 mol, 8 g | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)C(C=CC1=CC=C(C=C1)C)=O)C1=CC=C(C=C1)F | C29H30F2N2O2
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 1-[2-[Bis(4-fluorophenyl)methoxy]ethyl]-4-[3-(4-methylphenyl)-2-propenyl]piperazine maleate | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CC=CC1=CC=C(C=C1)C)C1=CC=C(C=C1)F | InChI=1S/C29H32F2N2O.C4H4O4/c1-23-4-6-24(7-5-23)3-2-16-32-17-19-33(20-18-32)21-22-34-29(25-8-12-27(30)13-9-25)26-10-14-28(31)15-11-26;5-3(6)1-2-4(7)8/h2-15,29H,16-22H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
